Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Codeine / Reglan
 
Attending: ___.
 
Chief Complaint:
"I'm so nervous"
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ is a ___ year old female with past history of 
major
depressive disorder and generalized anxiety disorder who 
presented
to the ___ ED with her brother due to worsening anxiety,
depression, and active suicidal ideation with plan to overdose 
on
her klonopin. Psychiatry was consulted for diagnostic
clarification and treatment recommendation.

On interview, patient stated that she has been really struggling
with anxiety, and that the past few weeks have been even worse.
Stated that she has felt totally out of control and just wants 
to
make it stop. Stated that she has been feeling more and more 
like
she wants to die. She increased her dose of klonopin recently,
but it didn't help. Stated that today she was thinking about
taking her entire bottle of klonopin in a suicide attempt. Cites
current stressor as being starting a new job after not working
for a year. Says she has been "berzerk anxious about it." She 
was
supposed to meet with him at 1PM today and felt that she
couldn't. However, states that even before this she was not able
to calm down, and is so tired of not feeling okay.

Endorsed stably depressed mood, no change in sleep, no change in
appetite (did gain 20lbs recently on Zyprexa), difficulty
concentrating (I can't read or watch tv), no interest in
anything, amotivation, anhedonia, and hopelessness. States that
at baseline she is very anxious, but currently it is even more
severe. Stated that she has been better able to cope in the 
past,
but is having difficult now. Denied any auditory or visual
hallucinations. Denied any current symptoms of mania. Denies
panic attacks. Denied any nightmares, flashbacks,
re-experiencing. Stated that she felt calmer being here, stated
no longer feeling active suicidal ideation. Does endorse passive
suicidal ideation, states that she would be okay going to sleep
and never waking up. Denies homicidal ideation.

Collateral from patient's brother ___:
Patient's brother states that his sister has been struggling 
with
anxiety and depression for the past ___ years, but that this is
the worst he has ever seen her. States that the past few weeks
she has been "immobilized with anxiety," with current stressor
being that she is starting to go back to work after not working
for a year. States that today his wife was at her house and
thought that she was doing worse than usual. He then contacted
his sister and asked if she was having thoughts about harming
herself, and she stated that she was thinking about overdosing 
on
her klonopin. States that she has admitted to feeling vaguely
suicidal in the past, but has never had an actual plan. 

 
Past Medical History:
PAST MEDICAL HISTORY:
Hypothyroidism
Hodgkin's cancer at age ___ in full remission
 
Social History:
___
Family History:
Mother has anxiety and depression. Father probably has
undiagnosed depression and alcoholism. Her maternal uncle has
OCD. Her maternal great grandmother was institutionalized for
either bipolar disorder or schizophrenia. Aunt's sister (not
blood relative) committed suicide, she didn't know her.

 
Physical Exam:
GEN: NAD
HEENT: NC/AT, 
Heart: RRR, normal S1 and S2, no murmurs appreciated
Lungs: clear to auscultation bilaterally, no wheezes, rhonchi or
crackles
Abdomen: non-tender to palpation, normoactive bowel sounds x4,
non-distended, no guarding, masses or rebound
Extremities: warm and well perfused, no edema in bilateral lower
extremities
Neuro: pupils reactive to direct and near (4mm-3mm); EOMI;
muscles of facial expression intact and symmetric bilaterally;
shoulder-shrugs symmetric; light touch diffusely intact; 
strength
___ throughout UE and ___

 
___ Results:
___ 07:15PM URINE  HOURS-RANDOM
___ 07:15PM URINE  HOURS-RANDOM
___ 07:15PM URINE  GR HOLD-HOLD
___ 07:15PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:15PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:10PM URINE  HOURS-RANDOM
___ 04:10PM URINE  UCG-NEGATIVE
___ 04:10PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:10PM URINE  COLOR-Red APPEAR-Cloudy SP ___
___ 04:10PM URINE  BLOOD-LG NITRITE-POS PROTEIN->300 
GLUCOSE-NEG KETONE-15 BILIRUBIN-SM UROBILNGN-1 PH-5.5 LEUK-SM
___ 04:10PM URINE  RBC->182* WBC-88* BACTERIA-FEW 
YEAST-NONE EPI-15
___ 04:10PM URINE  MUCOUS-OCC
___ 04:00PM   GLUCOSE-112* UREA N-18 CREAT-0.7 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-26 ANION GAP-12
___ 04:00PM   estGFR-Using this
___ 04:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:00PM   WBC-5.7 RBC-4.17 HGB-12.4 HCT-36.0 MCV-86 
MCH-29.7 MCHC-34.4 RDW-12.4 RDWSD-38.9
___ 04:00PM   NEUTS-58.3 ___ MONOS-7.8 EOS-2.3 
BASOS-0.5 IM ___ AbsNeut-3.30 AbsLymp-1.74 AbsMono-0.44 
AbsEos-0.13 AbsBaso-0.03
___ 04:00PM   PLT COUNT-144*
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission 
(___) and remained here on that level of observation 
throughout.  She was unit-restricted.  There were no acute 
safety issues during this hospitalization.

LEGAL: ___
PSYCHIATRIC:
# Depression
On admission, patient appeared extremely anxious, dysphoric, and 
intermittently tearful within the first few days. She denied 
suicidal ideation that she endorsed to brother. ___, 
patient determined to be likely suffering from acute on chronic 
depression and anxiety in setting of increased psychosocial 
stressors. ___ testing for diagnostic clarification was 
completed, indicated higher level of depression compared to 
anxiety although without further findings. She was continued on 
home Cymbalta 90mg PO QD, which was uptitrated to 120mg. She was 
also continued on home Rexulti 2mg QD (this medication is not on 
formulary, pharmacy could not provide, family brought from 
home). For her anxiety, she was continued on home clonazepam 
1.5mg PO BID with additional clonazepam 0.5mg PO BID PRN for 
anxiety/insomnia. As patient was notably anxious and without 
significant improvement initially, rexulti increased to 5mg PO 
BID on ___ with notable improvement in brighter affect and 
mood, with increased motivation and notable reduction in anxious 
behavior and isolative behavior initially seen on presentation 
as patient adjusted to unit. Patient was encouraged to 
participate in individual, group supportive, and milieu therapy 
in addition to medication therapy. She was seen to be more 
interactive with other staff and patients and engaged as she 
discussed increasingly with team her interest in contacting her 
work/project opportunity connection again to pursue her career 
in documentary/film making. 

GENERAL MEDICAL CONDITIONS:

#) Hypothyroidism: TSH on admission elevated but Free T4 wnl. 
Patient was continued on home levothyroxine 88mcg PO QD

PSYCHOSOCIAL:
#) GROUPS/MILIEU/THERAPY:
Patient seen by OT after admission in order to assist her in the 
development & increased utilization of positive coping, symptom 
management, insight, structure, self-esteem, concentration, 
leisure, socialization, ADL, IADL, & community
functioning skills. She was seen to also likely greatly benefit 
from consistent follow-up with stable outpatient psychiatric 
treatment providers, as well as regular attendance at 
community-based support groups, after she is discharged from 
___.
Patient stated interest in learning to deal with anxiety and 
learning new coping strategies. She was motivated to attend 
groups & engage in treatment. Occupational therapy addressed 
symptom management, insight, structure, self-esteem, 
concentration, leisure, socialization, & positive coping skill 
development, in groups & 1:1 treatment sessions as needed). She 
was recommended & encouraged to participate in:
--Psycho-educational & Process-Oriented Groups, in order to:
improve ___ insight, self-esteem, positive coping skills, &
symptom management techniques. 
--Structured/Therapeutic Activity Groups, in order to: further
improve ___ self-esteem & positive coping skills, as well as
to improve her concentration, leisure skills, socialization
skills, & daily structure.
Frequency/Duration: 6x/week X 1 week.
- ___ agreed with the above goals was willing to participate
in the rehabilitation program, which she did.

#) COLLATERAL CONTACTS:
Mother: ___ ___
Brother: ___ ___

- Team updated and coordinated with outpatient psychiatric NP, 
___: ___, 
___

#) FAMILY INVOLVEMENT:
Mother, ___, called for collateral and present for family 
meeting: She shared that patient has been deteriorating 
significantly for about past ___ years.  Decline occurred around 
___ - pt was very high functioning in a job in ___ which she 
abruptly left. Prior to leaving, she had many friends, was 
socially engaged and quite
connected w/ peers. Since leaving that job, pt has been 
increasingly withdrawn and
isolated.  She no longer has friends, has been sporadically 
looking for jobs, and often does not get out of her home or 
socialize at all. Mother is very worried about pt as is rest of 
family. Given above description, team concerned for pt with 
initial concern for prodromal psychotic course of social 
decline, withdrawal, isolation (i.e. negative sx). 

Team also spoke with brother, ___ ___: Stated 
she struggled with depression for long time ___ years) since 
college. Has had treatment in the past. Lived with him for few 
years (___) and only ___ years recently alone in own
apartment with financial support through father. Has had many 
years of difficulty finding work/employment. Lived in ___ 
with good employment history of ___ and ___, working 
80-90hrs/week. Subsequently stopped due to possible change of
interest, burnout(?). Was accepted into accelerated program to 
train as a ___ which was too rigorous, eventually 
dropping out and staying with her mother in ___ and working at 
___ afterwards (this was ___ years ago). Later relocated 
to ___ to find different job opportunities closer to him, 
subsequently became more depressed after not finding work. 
Unable to consistently maintain goals, ex. continuing going to 
the gym, or keeping in touch with old friends (which he stated 
she has plenty of but has isolated herself). She has seen 
therapist for
past ___ years with various combinations of medicines. He sees 
her every ___ days for visits. Her mother has been also 
functioning as her therapist, whom she has been seeing more 
recently. Limited contact with friends. Spends a lot of time in 
apartment by herself. Increasingly anxious in the past few weeks 
and tearful regarding unemployment. Planned to interview for 
film-___ project but became increasingly anxious and unable 
to pursue the opportunity. He denied that she ever had any 
self-injurious behavior or SA in the past but was concerned 
about her hurting herself because of her increasing social 
isolation, worsening depression, anxiety, lack of 
interests/hobbies (does not read as she used to) that have been 
increasingly concerning. He was interested in attending family 
meeting. 

___: Dr ___ met with pt and her 
brother ___ and mother
___, discussed pt's current condition and some of the 
diagnostic variables considered. They also shared their desire 
to have more professional support for pt, and team talked about 
what options would be available, including CSP, DMH, and
other partials. Team also spent some time exploring the 
challenges pt was feeling while on the unit, validated some of 
the difficulties, but reflected that it seemed that she needed 
to be here. Pt was tearful at times in the meeting and unhappy 
about having to stay at the hospital initially but team and 
family discussed with her about how to understand and manage 
some of these difficult feelings. 

Family was updated by ___, ___ on progress, 
improvement, and planning accordingly. 

#) INTERVENTIONS:
- Uptitrations: Cymbalta, ___
- See above GROUPS/MILIEU/THERAPY and FAMILY INVOLVEMENT 
- Patient was recommended and offered PHP referral and community 
support services throughout her hospitalization, which she 
continued to decline. Team provided contact information and 
asked her to reconsider after discharge. Arbour HRI partial or 
IOP were offered, and patient given Arbour referral contact 
information (___) if she ever considers this at 
any time in the future. 
- The ___ team also referred patient to Department of Mental 
Health 
for services (___) to f/u for an assessment. 
Phone: ___ 
Email: ___
Main Page: ___ 
 
INFORMED CONSENT:
klonopin, duloxetine, rexulti

Team discussed the indications for, intended benefits of, and
possible side effects and risks of these medications, and risks 
and
benefits of possible alternatives, including not taking the
medication, with this patient. We discussed the patient's right
to decide whether to take this medication as well as the
importance of the patient's actively participating in the
treatment and discussing any questions about medications with 
the
treatment team, and I answered the patient's questions. The
patient appeared able to understand and consented to begin the
medication.

RISK ASSESSMENT:

#) Chronic/Static Risk Factors:
- Caucasian
- Chronic mental illness
- History of trauma/assault

#) Modifiable Risk Factors:
- Single
- Unemployment
- Physical activity

#) Protective Factors:
- Demonstrated resilience, help seeking behavior, good 
medication compliance, and strong family support

PROGNOSIS:
Fair - Ms. ___ is a ___ year old female with past history of 
major depressive disorder and generalized anxiety disorder who 
presented with worsening anxiety, depression, and suicidal 
ideation with plan to overdose on klonopin. During this 
hospitalization, the patient's mood and anxiety improved with 
Cymbalta and rexulti uptitration and no longer experienced 
suicidal ideation. She became increasingly engaged and 
interactive in the unit with staff and other patients, taking 
part in groups and milieu activities. She exhibited less 
tearfulness and anxiety, was involved in her care, benefitted 
with family support, exhibited more insight and motivation to 
continue pursuing career opportunity, socializing more, caring 
for herself physically and mentally, and following up with her 
outpatient nurse practitioner. Although she was not amenable to 
PHP or other support services, the team encouraged her and 
provided contact information. Her struggles with depression and 
anxiety may likely persist and she will likely benefit with 
continued evaluation, reassessment, and continued 
pharmacotherapy, continuous therapy in the outpatient setting, 
family support, and continued social and career engagement. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 1.5 mg PO BID 
2. Duloxetine 90 mg PO DAILY 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. Rexulti (brexpiprazole) 2 mg oral DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. ClonazePAM 1.5 mg PO BID 
3. Duloxetine 120 mg PO DAILY 
RX *duloxetine 60 mg Take 2 capsule(s) by mouth DAILY Disp #*60 
Capsule Refills:*0
4. Rexulti (brexpiprazole) 4 mg oral DAILY 
RX *brexpiprazole [Rexulti] 4 mg Take tablet(s) by mouth DAILY 
Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder
Unspecified anxiety disorder

 
Discharge Condition:
*Appearance: appears stated age, wearing t-shirt and jeans, 
greying hair, good grooming and hygiene 
 *Behavior: cooperative with exam, good eye contact
 *Speech: regular rate and rhythm
 *Language: fluent in ___
 *Mood: 'good'
 *Affect: congruent with mood, slightly restricted affect
 *Thought process / *associations:  goal-oriented, linear, no
loosening of associations
 *Thought Content: denies AVH, currently denies SI or HI
  *Judgment and Insight: fair

Cognition: 
 *Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): attentive to interview
 *Orientation: oriented to person, place, date and situation
 *Memory:  short and long term memory grossly intact
 *Fund of knowledge: appears appropriate with level of education

Ambulatory Status: Ambulates without assistance

 
Discharge Instructions:
You were hospitalized at ___ for suicidal ideation in the 
context of worsening depression and anxiety due to psychosocial 
stressors.  We adjusted your medications, and you are now ready 
for discharge home although the team highly recommended and 
offered PHP and community support services to which you 
declined. Please continue to follow up with your psychiatric 
nurse ___ with contact information below. 
   

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___